US05972951
1'-Methyl-2,3,6,7-tetrahydrospiro[thiopheno[2,3-f]indole-3,4'-piperidine]
5-Acetyl-1'-methyl-2,3,6,7-tetrahydrospiro[thiopheno[2,3-f]indole-3,4'-piperidine] (D52) (0.047 g, 0.156 mmol) was dissolved in a mixture of ethanol (2 ml) and 5M HCl (4 ml) and was heated to reflux with stirring under argon. After 3 h, the reaction mixture was allowed to cool, was diluted with water (10 ml) and was basified using solid potassium carbonate. The resulting suspension (pH 9 ) was then extracted with dichloromethane (3×10 ml) and the combined extracts were dried (Na2SO4) and evaporated under reduced pressure to give the title compound as an off white solid, which was dried in vacuo (0.029 g, 71%).

reactant | 5-Acetyl-1'-methyl-2,3,6,7-tetrahydrospiro[thiopheno[2,3-f]indole-3,4'-piperidine] | 0.156 mmol, 0.047 g | C(C)(=O)N1CCC=2C=C3C(=CC12)C1(CCN(CC1)C)CS3 | C17H22N2OS
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 2 ml | C(C)O | C2H6O
solvent | HCl | 5M, 4 ml | Cl | ClH
solvent | water | 10 ml | O | H2O
product | 1'-Methyl-2,3,6,7-tetrahydrospiro[thiopheno[2,3-f]indole-3,4'-piperidine] | CN1CCC2(CC1)CSC1=CC=3CCNC3C=C12 | C15H20N2S
